US07288544B2
2) Synthesis of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3-(4-(5H-dibenzo[a,d] cyclohepten-5-ylidene) piperidine-1-yl) propan-1-yl) ester:
5 ml of methanol and 0.434 ml of 1 N aqueous sodium hydroxide solution were added to 244 mg (0.36 mmol) of 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester 5-(3-(4-(5H-dibenzo[a,d] cyclohepten-5-ylidene) piperidine-1-yl) propan-1-yl) ester and stirred at room temperature for 5 hours. After adding 1 N hydrochloric acid, precipitates were taken by the filtration and dried under reduced pressure to obtain the title compound.

reactant | sodium hydroxide | 1 N, 0.434 ml | [OH-].[Na+]
reactant | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-cyanoethyl) ester 5-(3-(4-(5H-dibenzo[a,d] cyclohepten-5-ylidene) piperidine-1-yl) propan-1-yl) ester | 0.36 mmol, 244 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)CCCOC(=O)C=3C(C(=C(NC3C)C)C(=O)OCCC#N)C3=CC(=CC=C3)Cl | C41H40ClN3O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (3-(4-(5H-dibenzo[a,d] cyclohepten-5-ylidene) piperidine-1-yl) propan-1-yl) ester | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)CCCOC(=O)C3=C(NC(=C(C3C3=CC(=CC=C3)Cl)C(=O)O)C)C | C38H37ClN2O4
